US06548677B1
Preparation of 3,6-dichloro-2-methylbenzaldoxime
198 g (0.975 mol) of 93% pure 3,6-dichloro-2-methylbenzaldehyde and 416.2 g (0.634 mol) of a 25% strength aqueous solution of hydroxylamine sulfate are mixed in 1.5 l of toluene and heated at 80° C. Over a period of 2 h, 109.2 g (1.36 mol) of 50% strength NaOH are then added dropwise such that the pH is between 3 and 5. Stirring at 80° C. is continued for 1 h, and the phases are then separated at 80° C. The organic phase is washed once with 250 ml of water. The organic phase is concentrated and the residue is recrystallized from cyclohexane. This gives 165.4 g of the aldoxime (83.3% of theory). 1H-NMR: (DMSO-D6): 2.4 ppm (s, 3H, Me), 7.4 ppm (d, 1H, arom-H), 7.5 ppm (d, 1H, arom-H), 8.3 ppm (s, 1H, NH), 11.7 ppm (s, 1H, OH).

reactant | 3,6-dichloro-2-methylbenzaldehyde | 0.975 mol, 198 g | ClC=1C(=C(C=O)C(=CC1)Cl)C | C8H6Cl2O
reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 1.5 l | C1(=CC=CC=C1)C | C7H8
product | 3,6-dichloro-2-methylbenzaldoxime | ClC=1C(=C(C=NO)C(=CC1)Cl)C | C8H7Cl2NO
